US04923984
To a solution of 23.463 g (125.069 mM) of 2'-amino-2-chloro-5'-fluoroacetophenone in 436 ml of CH3CN is added 56.2 g (375.2 mM) of NaI, and the mixture is stirred at room temperature for 45 min. and concentrated under reduced pressure. The resulting residue is dissolved in ethyl acetate, washed with aqueous Na2S2O3, and brine in order, dried and concentrated to give 29.97 g (Yield: 85.9%) of 2'-amino-5'-fluoro-2-iodoacetophenone as yellow crystals.

reactant | 2'-amino-2-chloro-5'-fluoroacetophenone | 125.069 mM, 23.463 g | NC1=C(C=C(C=C1)F)C(CCl)=O | C8H7ClFNO
reactant | NaI | 375.2 mM, 56.2 g | [Na+].[I-]
solvent | CH3CN | 436 ml | CC#N | C2H3N
product | 2'-amino-5'-fluoro-2-iodoacetophenone | 29.97 g, Yield: 85.9% | NC1=C(C=C(C=C1)F)C(CI)=O | C8H7FINO
